US07846923B2
3. 4-Benzyl-9-methyl-7-(2-methyl-5-nitro-phenyl)-4,9-dihydro-3,4,9-triaza-cyclopenta[a]naphthalen-8-one
A mixture of 7-benzyl-4-methylamino-7H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (400 mg, 1.5 mmol), (2-methyl-5-nitro-phenyl)-acetic acid methyl ester (350 mg, 1.67 mmol) and cesium carbonate (1.1 g, 3 mmol) in 5 ml anhydrous DMF is heated to 120° C. for 30 min. The reaction mixture is cooled down to room temperature. The reaction mixture is partitioned in water and ethyl acetate, extracted with ethyl acetate three times. The organic phase is combined and washed with brine, dried over Na2SO4. The crude product is purified by silica gel flash chromatography, eluted with 40% to 100% ethyl acetate in hexane to give the title compound as light yellow solid. MS m/z 426.2 (M+1).

reactant | 7-benzyl-4-methylamino-7H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 1.5 mmol, 400 mg | C(C1=CC=CC=C1)N1C=2C(=C(C(=C1)C=O)NC)C=CN2 | C16H15N3O
reactant | (2-methyl-5-nitro-phenyl)-acetic acid methyl ester | 1.67 mmol, 350 mg | COC(CC1=C(C=CC(=C1)[N+](=O)[O-])C)=O | C10H11NO4
reactant | cesium carbonate | 3 mmol, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-Benzyl-9-methyl-7-(2-methyl-5-nitro-phenyl)-4,9-dihydro-3,4,9-triaza-cyclopenta[a]naphthalen-8-one | C(C1=CC=CC=C1)N1C=2C(=C3N(C(C(=CC3=C1)C1=C(C=CC(=C1)[N+](=O)[O-])C)=O)C)C=CN2 | C25H20N4O3
